Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Demerol / 
Bactrim / Flagyl / clindamycin
 
Attending: ___
 
Chief Complaint:
Fall with left chest and mid back pain. 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ presenting to the emergency department for pain in her mid
back and left chest after a fall yesterday at 3 pm. The patient
has been having intermittent episodes of dizziness with loss of
balance. She was attempting to take her boots off and fell
backwards. +HS, -LOC. She then complained of left chest and mid
back pain.
 
Past Medical History:
Asthma
Hypertension
Hypothyroidism
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
T 97.5   BP 129/83   HR 80   RR 18    SatO2 92 RA 
Alert and oriented
RRR
CTA bil
Chest tender to palpation on the left side
Tender to palpation of thoracic spine
Abdomen soft, non tender
Extremity no edema, no tenderness or deformity
 
Brief Hospital Course:
Ms. ___ is a ___ year old Female who presented to the ___ 
___ on ___ after a 
fall from standing with complains of left posterior chest pain 
and tenderness over the spine. Imaging confirmed a left rib 
fracture and T6 through T8 and T11 compression fractures that do 
not looked acute on CT but correlate with tenderness on exam. 
The patient was admitted for pain control and evaluation by 
Spine Surgery. Orthopedic surgery assessed the patient; no 
neurological deficits and no retropulsion was identified on CT. 
They recommended a TLSO brace and follow up in outpatient spine 
clinic. The patient was placed on a regular diet, was given oral 
pain medication and lidocaine patch, and an incentive spirometer 
was provided to avoid spinting given her rib fracture. She was 
given her home medications.

On ___ was able to tolerate a regular diet, get 
out of bed and ambulate without assistance, void without issues, 
and pain was controlled on oral medications alone. She was 
deemed ready for discharge, and was given the appropriate 
discharge and follow-up instructions including wearing her TLSO 
brace at all times until follow up in the spine clinic.
 
Medications on Admission:
IRBESARTAN 150 MG daily
ESCITALOPRAM 20 MG QHS daily
BUPROPION HCL XL 450 MG QAM
QUETIAPINE FUMARATE 75 MG QAM and 100 mg QHS
TRIAMCINOLONE 0.1% PASTE
NYSTATIN-TRIAMCINOLONE CREAM
MUPIROCIN 2% OINTMENT
HYDROCORTISONE 2.5% OINTMENT
BETAMETHASONE DP 0.05% CRM
LEVOTHYROXINE 100 MCG DAILY
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID  
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 (One) tablet(s) by mouth every four (4) 
hours Disp #*30 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
6.  BuPROPion XL (Once Daily) 450 mg PO DAILY  
7.  Escitalopram Oxalate 40 mg PO DAILY  
8.  Levothyroxine Sodium 100 mcg PO DAILY  
9.  Lidocaine 5% Patch 1 PTCH TD QAM  
10.  Mupirocin Ointment 2% 1 Appl TP BID  
11.  QUEtiapine Fumarate 50 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Fall with Left 7th rib fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after 
a fall from standing and sustained Left 7th rib fracture. You 
were observed and placed on a TLSO brace. You have now recovered 
and are ready to be discharged. Please follow the instructions 
below to continue your recovery:

* Your injury caused ____________ rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).
 
*Please wear your TLSO brace at all times until follow up in the 
spine clinic.
 
Followup Instructions:
___